US05304549
7.02 g of diethyl 2-[(R)-(acetamido)(hydroxyphosphinyl)-methyl]-2-isobutylmalonate were suspended in 20 ml of water and 1.76 g of lithium hydroxide monohydrate were added. The mixture was stirred at room temperature for 3 days and was then acidified by the addition of 6 ml of concentrated hydrochloric acid. The solution was then saturated with sodium chloride and extracted ten times with dichloromethane. The combined extracts were dried over anhydrous magnesium sulfate and evaporated to give 6.0 g of ethyl hydrogen 2-[(R)-(acetamido)(hydroxyphosphinyl)methyl]-2(RS)-isobutylmalonate in the form of a white foam as a 3:1 mixture of diastereoisomers; MS: 324 (M+H)+.

reactant | diethyl 2-[(R)-(acetamido)(hydroxyphosphinyl)-methyl]-2-isobutylmalonate | 7.02 g | C(C)(=O)N[C@@H](C(C(=O)OCC)(C(=O)OCC)CC(C)C)P(=O)O | C14H26NO7P
reactant | lithium hydroxide monohydrate | 1.76 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | ethyl hydrogen 2-[(R)-(acetamido)(hydroxyphosphinyl)methyl]-2(RS)-isobutylmalonate | 6.0 g | C(C)(=O)N[C@@H](C(C(=O)OCC)(C(=O)O)CC(C)C)P(=O)O | C12H22NO7P
